US09029374B2
2-(2,5-dioxopyrrolidin-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (3.34 g, 11.09 mmol) at 25° C. was added portionwise to 8-(1-hydroxyethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid (1.77 g, 5.54 mmol) and N-ethyl-N-isopropylpropan-2-amine (2.028 mL, 11.64 mmol) suspended in DCM (15 mL) under nitrogen. The resulting mixture was stirred at 25° C. for 5 hrs. Pyrrolidine (1.388 mL, 16.63 mmol) was then added to the mixture and the resulting mixture was stirred at 25° C. overnight. The mixture was poured onto a silica gel column and purified by flash chromatography eluting with 2 to 7% methanolic ammonia (7 N) in DCM. The solvent was evaporated to dryness, the residue was triturated in ethylacetate (10 mL), collected by filtration and dried to afford 8-(1-hydroxyethyl)-2-morpholino-6-(pyrrolidine-1-carbonyl)-4H-chromen-4-one (1.66 g, 80%) as a beige solid. Mass Spectrum: M+H+ 373.

reactant | 2-(2,5-dioxopyrrolidin-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate | 11.09 mmol, 3.34 g | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | 8-(1-hydroxyethyl)-2-morpholino-4-oxo-4H-chromene-6-carboxylic acid | 5.54 mmol, 1.77 g | OC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)O | C16H17NO6
reactant | N-ethyl-N-isopropylpropan-2-amine | 11.64 mmol, 2.028 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | Pyrrolidine | 16.63 mmol, 1.388 mL | N1CCCC1 | C4H9N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 8-(1-hydroxyethyl)-2-morpholino-6-(pyrrolidine-1-carbonyl)-4H-chromen-4-one | 1.66 g, 80% | OC(C)C=1C=C(C=C2C(C=C(OC12)N1CCOCC1)=O)C(=O)N1CCCC1 | C20H24N2O5
